US06736862B2
5,6-Dimethoxy-1-(4-nitrophenyl)-indoline was hyrogenated overnight with Pd (5%) on carbon in ethanol/water (8:2) in a shaking “duck”. When the uptake of hydrogen had come to an end, 10% hydrochloric acid was added, the catalyst was filtered off and the remainder was concentrated to dryness. The residue was dried in vacuo at 45° C. The product 4-(5,6-dimethoxyindolinyl)-phenylamine hydrochloride was obtained in a yield of 84.9% (melting point: 143-145° C.).

reactant | 5,6-Dimethoxy-1-(4-nitrophenyl)-indoline | COC=1C=C2CCN(C2=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H16N2O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | C(C)O.O
catalyst | Pd | [Pd] | Pd
product | 4-(5,6-dimethoxyindolinyl)-phenylamine hydrochloride | yield of 84.9% | Cl.COC=1C=C2CCN(C2=CC1OC)C1=CC=C(C=C1)N | InChI=1S/C16H18N2O2.ClH/c1-19-15-9-11-7-8-18(14(11)10-16(15)20-2)13-5-3-12(17)4-6-13;/h3-6,9-10H,7-8,17H2,1-2H3;1H
